US09340549B2
To a solution of 2-phenylpropane-1,2-diol (3 g, 19.7 mmol) in DCM (60 mL) was added Dess-Martin periodinane (8.36 g, 19.7 mmol) at 0° C. The reaction mixture was stirred for 2 hours at ambient temperature. After completion of the reaction (monitored by TLC (TLC eluent: 30% EtOAc in petroleum ether)), the reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc. The organic layers were combined and washed with water, washed with saturated NaCl solution, and dried on anhydrous Na2SO4. The organic layer was then filtered and concentrated under vacuum to yield intermediate 2-hydroxy-2-phenylpropanal (2 g unpurified) as a colorless liquid. The intermediate thus obtained was used in the next step without any further purification. 1H NMR (400 MHz, CDCl3): δ 9.50 (s, 1H). The 1H NMR spectrum was not completely clean, but since the aldehyde peak at 9.50 ppm was observed, this intermediate was used in the next step without purification.

reactant | 2-phenylpropane-1,2-diol | 19.7 mmol, 3 g | C1(=CC=CC=C1)C(CO)(C)O | C9H12O2
reactant | Dess-Martin periodinane | 19.7 mmol, 8.36 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-2-phenylpropanal | 2 g | OC(C=O)(C)C1=CC=CC=C1 | C9H10O2
